US04801609
Method 1: S-(4-Methylbenzyl)-L-Cysteine, Methyl Ester, Hydrochloride:
At room temperature, add thionyl chloride (2.8 ml, 2.2 equiv.) dropwise to N-t-butyloxycarbonyl-S-(4-methylbenzyl)-L-cysteine (5.0g) in methanol (500 ml) and heat the resulting mixture under reflux for 90 minutes. Cool the reaction mixture to room temperature and concentrate in vacuo to give the title compound, a white solid (4.31g), m.p. 158°-160°, [α]D26 =-22.9° (MeOH).

reactant | thionyl chloride | 2.8 ml, 2.2 equiv. | S(=O)(Cl)Cl | Cl2OS
reactant | N-t-butyloxycarbonyl-S-(4-methylbenzyl)-L-cysteine | 5.0g | C(C)(C)(C)OC(=O)N[C@@H](CSCC1=CC=C(C=C1)C)C(=O)O | C16H23NO4S
reactant | methanol | 500 ml | CO | CH4O
product | S-(4-Methylbenzyl)-L-Cysteine, Methyl Ester, Hydrochloride | Cl.CC1=CC=C(CSC[C@H](N)C(=O)OC)C=C1 | InChI=1S/C12H17NO2S.ClH/c1-9-3-5-10(6-4-9)7-16-8-11(13)12(14)15-2;/h3-6,11H,7-8,13H2,1-2H3;1H/t11-;/m0./s1
